US05175301
1-(6-Chloro-3-pyridylmethyl)amino-1-methylamino-2-nitroethylene (Compound 28)
In 100 ml of EtOH was dissolved 1.2 g (4.6×10-3 mole) of 1-(6-chloro-3-pyridylmethyl)amino-1-methylthio-2-nitroethylene and on reflux, a solution of 0.84 g of 40% aqueous methylamine in 30 ml EtOH was added dropwise over 1 hour. After cooling, the reaction mixture was concentrated under reduced pressure to about 50 ml and the resulting crystals were collected by filtration and dried to give 0.6 g of the title compound as pale yellow needles.

reactant | 1-(6-chloro-3-pyridylmethyl)amino-1-methylthio-2-nitroethylene | 4.6×10-3 mole, 1.2 g | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])SC | C9H10ClN3O2S
reactant | methylamine | 0.84 g | CN | CH5N
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 30 ml | CCO | C2H6O
product | 1-(6-Chloro-3-pyridylmethyl)amino-1-methylamino-2-nitroethylene | 0.6 g | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])NC | C9H11ClN4O2
